US07626054B2
38 mg (0.033 mmol) of tetrakis(triphenylphosphine)palladium are added to a solution of 100 mg (0.33 mmol) of methyl (S)-3-(4-bromophenyl)-2-(propyloxy)propionate and 90 mg (0.39 mmol) of methyl[3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]amine in 1 ml of dimethylformamide. 0.2 ml of a 2M potassium phosphate solution is added and the reaction mixture is stirred at 90° C. for 2 hours. The reaction is halted by the addition of 10 ml of water and then extraction is carried out with ethyl acetate. The organic phases are combined and dried over sodium sulfate. The solvents are evaporated and then the residue is chromatographed on silica gel (heptane/ethyl acetate 80/20). 76 mg of methyl (S)-2-propyloxy-3-[3′-(methylamino)biphenyl-4-yl]propanoate are obtained in the form of an oil. Yield=70%.

reactant | methyl (S)-3-(4-bromophenyl)-2-(propyloxy)propionate | 0.33 mmol, 100 mg | BrC1=CC=C(C=C1)C[C@@H](C(=O)OC)OCCC | C13H17BrO3
reactant | methyl[3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]amine | 0.39 mmol, 90 mg | CNC1=CC(=CC=C1)B1OC(C(O1)(C)C)(C)C | C13H20BNO2
reactant | potassium phosphate | 2M | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | water | 10 ml | O | H2O
solvent | dimethylformamide | 1 ml | CN(C=O)C | C3H7NO
catalyst | tetrakis(triphenylphosphine)palladium | 0.033 mmol, 38 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | methyl (S)-2-propyloxy-3-[3′-(methylamino)biphenyl-4-yl]propanoate | 76 mg, Yield=70% | C(CC)O[C@H](C(=O)OC)CC1=CC=C(C=C1)C1=CC(=CC=C1)NC | C20H25NO3
